US08541411B2
b) methyl 2-(difluoromethyl)-5-(4-morpholinyl)-1H-benzimidazole-7-carboxylate
A mixture of methyl 2,3-diamino-5-morpholinobenzoate (40.16 g, 160 mmol) and 2,2-difluoroacetic acid (46.08 g, 480 mmol) in toluene (500 mL) was stirred at reflux temperature for 15 h. Then the mixture was cooled to room temperature and the solvent was removed in vacuum. The residue was purified by silica gel chromatography eluted with petroleum ether:EtOAc=2:1 to afford the desired product. Then, it was dissolved with EtOAc (2 L) and washed with aqueous NaHCO3 (1 L) and brine (1 L). The organic layer was dried over anhydrous Na2SO4 and concentrated to give the desired product (40.9 g, 82%) as a yellow solid. 1H NMR showed this compound is in a form of tautomeric mixture (major tautomer/minor tautomer=5/1) 1H NMR of the major tautomer (300 MHz, DMSO-d6): δ ppm 3.14 (t, 4H, J=4.8 Hz), 3.78 (t, 4H, J=4.8 Hz), 3.96 (s, 3H), 7.21 (t, 1H, J=52.8 Hz), 7.55 (d, 1H, J=2.4 Hz), 7.65 (d, 1H, J=2.4 Hz), 12.92 (s, 1H); LC-MS: m/e=312 [M+1]+

reactant | methyl 2,3-diamino-5-morpholinobenzoate | 160 mmol, 40.16 g | NC1=C(C(=O)OC)C=C(C=C1N)N1CCOCC1 | C12H17N3O3
reactant | 2,2-difluoroacetic acid | 480 mmol, 46.08 g | FC(C(=O)O)F | C2H2F2O2
solvent | toluene | 500 mL | C1(=CC=CC=C1)C | C7H8
product | methyl 2-(difluoromethyl)-5-(4-morpholinyl)-1H-benzimidazole-7-carboxylate | FC(C1=NC2=C(N1)C(=CC(=C2)N2CCOCC2)C(=O)OC)F | C14H15F2N3O3
